US08044041B2
A mixture of 1-methoxy-4-pyridin-2-yl-phthalazine-6-carboxylic acid (3-trifluoromethyl-phenyl)-amide (57 mg, 0.134 mmol), dioxane (3 mL) and 48% HBr (4 mL) was stirred at 40° C. for 1.5 hours. Concentration followed by chromatography (Hex/EtOAc) afforded 1-hydroxy-4-pyridin-2-yl-phthalazine-6-carboxylic acid (3-trifluoromethyl-phenyl)-amide (56 mg) as a white solid, 1H NMR (400 MHz, 4:1 CDCl3:d6-DMSO) δ: 7.27 (d, 1H), 7.36-7.44 (m, 2H), 7.90-7.95 (m, 2H), 8.05 (s, 1H), 8.21 (s, 1H), 8.33 (dd, 1H), 8.47 (d, 1H), 8.65 (dd, 1H), 8.81 (d, 1H), 10.50 (s, 1H), 12.80 (s, 1H) ppm. m/z 410.96.

reactant | 1-methoxy-4-pyridin-2-yl-phthalazine-6-carboxylic acid (3-trifluoromethyl-phenyl)-amide | 0.134 mmol, 57 mg | FC(C=1C=C(C=CC1)NC(=O)C=1C=C2C(=NN=C(C2=CC1)OC)C1=NC=CC=C1)(F)F | C22H15F3N4O2
reactant | HBr | 4 mL | Br | BrH
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
product | 1-hydroxy-4-pyridin-2-yl-phthalazine-6-carboxylic acid (3-trifluoromethyl-phenyl)-amide | 56 mg | FC(C=1C=C(C=CC1)NC(=O)C=1C=C2C(=NN=C(C2=CC1)O)C1=NC=CC=C1)(F)F | C21H13F3N4O2
